US08629133B2
Tert-butyl [trans-4-(3-{[tert-butyl(diphenyl)silyl]oxy}azetidin-1-yl)cyclohexyl]carbamate
1,3-Dibromo-2-propanol (1.70 ml, 16.5 mmol) and sodium carbonate (15.9 g, 150 mmol) were added to an ethanol (300 ml) solution of tert-butyl(trans-4-aminocyclohexyl)carbamate (3.21 g, 15.0 mmol) and the resulting mixture was stirred under heating to reflux overnight. After cooling, insoluble matter was removed by filtration through celite and then the filtrate was concentrated under reduced pressure. The residue was diluted with water, followed by extraction with ethyl acetate. Then the organic layer was washed with brine. The organic layer was dried over anhydrous sodium sulfate and then the solvent was evaporated under reduced pressure. The residue was dissolved in N,N-dimethylformamide (15 ml) and imidazole (2.45 g, 36.0 mmol) and tert-butyldiphenylchlorosilane (4.29 ml, 16.5 mmol) were added under ice cooling. After stirring at room temperature for 1 hour, the reaction mixture was diluted with ethyl acetate and washed with water and brine in that order. The organic layer was dried over anhydrous magnesium sulfate, then the solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography [chloroform:methanol=10:0→10:1 (v/v)] to give 2.45 g (32%) of the title compound as a colorless solid.

reactant | 1,3-Dibromo-2-propanol | 16.5 mmol, 1.70 ml | BrCC(CBr)O | C3H6Br2O
reactant | sodium carbonate | 150 mmol, 15.9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-butyl(trans-4-aminocyclohexyl)carbamate | 15.0 mmol, 3.21 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)N)=O | C11H22N2O2
reactant | imidazole | 36.0 mmol, 2.45 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldiphenylchlorosilane | 16.5 mmol, 4.29 ml | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | Tert-butyl [trans-4-(3-{[tert-butyl(diphenyl)silyl]oxy}azetidin-1-yl)cyclohexyl]carbamate | 2.45 g, 32% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C30H44N2O3Si
